US07550544B2
7-Bromo-4-fluoro-2-methyl-1H-indene
To a solution of 48.4 g (199 mmol) of 4-bromo-7-fluoro-2-methylindan-1-one in 270 ml of a mixture of THF-methanol (2:1, vol.), 11.3 g (299 mmol) of NaBH4 was added in small portions, while vigorously stirring, over 2 h at 0° C. This mixture was stirred for 12 h at room temperature and then added to 500 ml of cold water. The organic layer was separated, the aqueous layer was extracted with 3×200 ml of methyl-tert-butyl ether. The combined organic extract was dried over K2CO3 and then evaporated to dryness. The residue was dissolved in 500 ml of toluene, and 2.0 g of p-TosOH was added. The resulting solution was refluxed for 4 h using a Dean-Stark trap to remove water formed and then passed through a short Silica Gel 60 column (40-63 um, d 100 mm, l 80 mm, eluent: hexanes). This column was additionally washed with 250 ml of toluene. The combined organic extract was evaporated to dryness. The residue was dried in vacuum to give the title compound. Yield 38.9 g (86%).

reactant | 4-bromo-7-fluoro-2-methylindan-1-one | 199 mmol, 48.4 g | BrC1=C2CC(C(C2=C(C=C1)F)=O)C | C10H8BrFO
reactant | THF methanol | C1CCOC1.CO
reactant | NaBH4 | 299 mmol, 11.3 g | [BH4-].[Na+]
solvent | water | 500 ml | O | H2O
product | 7-Bromo-4-fluoro-2-methyl-1H-indene | BrC=1C=CC(=C2C=C(CC12)C)F | C10H8BrF
